US06846819B1
a) 1,4-Dimethyl-1H-indol-2-carboxylic acid
A solution of 1,4-dimethyl-1H-indole (0.9 g, 6.2 mmole) in anhydrous Et2O (20 mL) was treated with 2.5 M n-BuLi in hexanes (5.0 mL, 12 mmole) and the reaction was heated at reflux for 15 hr. The dark reaction mixture was poured into a slurry of excess crushed dry ice in Et2O, and the mixture was allowed to stand for 1 hr. Water (10 mL) was added, the layers separated, and the aqueous layer was filtered through celite®P. The clear filtrate was acidified with 2.0 N HCl to pH 2, and the precipitate was collected and dried to afford the title compound (0.29 g, 26.4%) as an off-white solid: MS (ES) m/e 190.2 (M+H)+.

reactant | 1,4-dimethyl-1H-indole | 6.2 mmole, 0.9 g | CN1C=CC2=C(C=CC=C12)C | C10H11N
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | dry ice | C(=O)=O | CO2
reactant | Water | 10 mL | O | H2O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 1,4-Dimethyl-1H-indol-2-carboxylic acid | 0.29 g, 26.4% | CN1C(=CC2=C(C=CC=C12)C)C(=O)O | C11H11NO2
